US08349885B2
4-Amino-3-nitro-benzoic acid ethyl ester and trimethyl-phenylethynyl-silane were reacted according to the same procedures as Preparation 19 to give 7-nitro-3-phenyl-2-trimethylsilanyl-1H-indole-5-carboxylic acid ethyl ester.

reactant | 4-Amino-3-nitro-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)N)[N+](=O)[O-])=O | C9H10N2O4
reactant | trimethyl-phenylethynyl-silane | C[Si](C#CC1=CC=CC=C1)(C)C | C11H14Si
product | 7-nitro-3-phenyl-2-trimethylsilanyl-1H-indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C2C(=C(NC2=C(C1)[N+](=O)[O-])[Si](C)(C)C)C1=CC=CC=C1 | C20H22N2O4Si
